US07217722B2
N-(2,6-Difluorophenyl)-N′-(4-pyridyl)urea
4-Aminopyridine (100 mg, 1.06 mmol) and 2,6-difluorophenyl isocyanate (181.3 mg, 1.17 mmol) were dissolved in toluene, and the mixture was then stirred at 110° C. for 4 hr.

reactant | 4-Aminopyridine | 1.06 mmol, 100 mg | NC1=CC=NC=C1 | C5H6N2
reactant | 2,6-difluorophenyl isocyanate | 1.17 mmol, 181.3 mg | FC1=C(C(=CC=C1)F)N=C=O | C7H3F2NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(2,6-Difluorophenyl)-N′-(4-pyridyl)urea | FC1=C(C(=CC=C1)F)NC(=O)NC1=CC=NC=C1 | C12H9F2N3O
